US04958019
Synthesis of diphenylmethyl 7-amino-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate
In a suspension of 17.48 g of 7-amino-3-[(2-hydroxymethyl5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid in 100 ml of methanol and 300 ml of methylene chloride was added dropwise diphenyldiazomethane as 50 ml of a methylene chloride solution, synthesized from 23.55 g of benzophenonehydrazone, 26 g of mercuric oxide (yellow) and 200 ml of n-hexane while stirring, and the mixture was stirred at room temperature overnight. After the reaction mixture was condensed, ether was added thereto to effect crystallization. The crystals thus formed were collected by filtration and dried to obtain 30.15 g of the title compound.

reactant | 7-amino-3-[(2-hydroxymethyl5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylic acid | 17.48 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C)C(=O)O)C1=O | C15H16N6O4S2
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | benzophenonehydrazone | 23.55 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | n-hexane | 200 ml | CCCCCC | C6H14
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | diphenylmethyl 7-amino-3-[(2-hydroxymethyl-5-methyl-s-triazolo[1,5-a]pyrimidin-7-yl)thiomethyl]-3-cephem-4-carboxylate | 30.15 g | NC1[C@@H]2N(C(=C(CS2)CSC2=CC(=NC=3N2N=C(N3)CO)C)C(=O)OC(C3=CC=CC=C3)C3=CC=CC=C3)C1=O | C28H26N6O4S2
